US09450195B2
Synthesis of 2-(2,4-difluorophenyl)-5-(2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyridine
One 250 mL round-bottomed flask was charged with Pd2DBA3 (0.083 mmole, 0.076 g), 5-(4-chloro-2,6-dimethylphenyl)-2-(2,4-difluorophenyl)pyridine (1.362 g, 4.13 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.363 g, 5.37 mmol), potassium acetate (1.257 g, 12.80 mmol), tricyclohexylphosphine (0.093 g, 0.330 mmol), and Dioxane (20 ml) to give a yellow solution. The reaction mixture was refluxed for 12 hours. Then the reaction mixture was diluted with deionized water and extracted by ethyl acetate. The organic portion was combined and subjected to column chromatography (SiO2 gel, 20% EtOAc in heptane) to yield the desired compound, 2-(2,4-difluorophenyl)-5-(2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyridine (1.5 g, 86%).

reactant | 5-(4-chloro-2,6-dimethylphenyl)-2-(2,4-difluorophenyl)pyridine | 4.13 mmol, 1.362 g | ClC1=CC(=C(C(=C1)C)C=1C=CC(=NC1)C1=C(C=C(C=C1)F)F)C | C19H14ClF2N
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.37 mmol, 1.363 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 12.80 mmol, 1.257 g | C(C)(=O)[O-].[K+]
reactant | Dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd2DBA3 | 0.083 mmole, 0.076 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tricyclohexylphosphine | 0.330 mmol, 0.093 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
product | 2-(2,4-difluorophenyl)-5-(2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyridine | 1.5 g, 86% | FC1=C(C=CC(=C1)F)C1=NC=C(C=C1)C1=C(C=C(C=C1C)B1OC(C(O1)(C)C)(C)C)C | C25H26BF2NO2
